US04898874
7-Bromomethyl-3-phenyl-2,1-benzisoxazole
A solution of 23.5 g (0.112 mole) of 7-methyl-3-phenyl-2,1-benzisoxazole in 400 ml of carbon tetrachloride was treated with 20.0 g (0.112 mole) of N-bromosuccinimide and the mixture was heated at reflux with a white light lamp until all solid floated in the solvent. The mixture was filtered and the filtrate deposited a 15 g crop of reasonably pure product. This 15 g of material was dissolved in methylene chloride and washed with diluted sodium hydroxide to remove succinimide. The organic solution was concentrated and the residue was crystallized from isopropanol to give 25.2 g (77%) of yellow needles, m.p. 125.0°-125.5° C.

reactant | 7-methyl-3-phenyl-2,1-benzisoxazole | 0.112 mole, 23.5 g | CC1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C14H11NO
reactant | N-bromosuccinimide | 0.112 mole, 20.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromomethyl-3-phenyl-2,1-benzisoxazole | 25.2 g, 77% | BrCC1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C14H10BrNO
